US07488844B2
(ii) (2S)-3-(4-{2-[(4-Chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (0.240 g, 0.54 mmol) in THF (30 mL) was added aqueous 0.10 M LiOH (15 mL) and the solution was stirred at room temperature overnight. After neutralisation with 5% HCl, the solvent volume was reduced in vacuo and the remaining aqueous phase was acidified with 5% HCl and extracted with methylene chloride (2×50 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4, and concentrated in vacuo. Purification on a prepacked column of silica gel (Isolute® SPE Column, 2 g/15 mL) with ethyl acetate as the eluent afforded 0.138 g (61%) of a pale yellow oil.

reactant | ethyl(2S)-3-(4-{2-[(4-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.54 mmol, 0.240 g | ClC1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CC)C=C1 | C24H30ClNO5
reactant | LiOH | 0.10 M, 15 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2S)-3-(4-{2-[(4-Chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 0.138 g, 61% | ClC1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)=O)CC)C=C1 | C22H26ClNO5
